US09375000B2
Step 3: Synthesis of 1-({2-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoro-methyl)pyrimidin-5-yl}methyl)cyclopropanecarboxamide
1-{2-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoromethyl)pyrimidin-5-yl}methanamine (0.15 g) and triethylamine (0.051 ml) were dissolved in methylene chloride (3 ml), and to the solution was added cyclopropane carbonyl chloride (0.033 ml, 0.37 mmol) at room temperature. The reaction mixture was stirred overnight and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography to obtain the target compound (0.135 g).

reactant | 1-{2-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoromethyl)pyrimidin-5-yl}methanamine | 0.15 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=NC=C(C(=N1)C(F)(F)F)CN)C(F)(F)F | C17H13Cl3F6N4
reactant | triethylamine | 0.051 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 0.37 mmol, 0.033 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-({2-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoro-methyl)pyrimidin-5-yl}methyl)cyclopropanecarboxamide | 0.135 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=NC=C(C(=N1)C(F)(F)F)CC1(CC1)C(=O)N)C(F)(F)F | C21H17Cl3F6N4O
